US06541521B1
In a manner similar to that described in Example 3, 3-methoxybenzoyl chloride (0.052 g, 0.00030 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.069 g of 4-[4-(3-methoxy-benzoylamino)-phenyl]-4-oxo-butyric acid as an off-white solid; MS-(AP+) MH+328.

reactant | 3-methoxybenzoyl chloride | 0.00030 mol, 0.052 g | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-[4-(3-methoxy-benzoylamino)-phenyl]-4-oxo-butyric acid | 0.069 g | COC=1C=C(C(=O)NC2=CC=C(C=C2)C(CCC(=O)O)=O)C=CC1 | C18H17NO5
